US05364871
A solution of ferrous sulfate heptahydrate (496 g) in water (1080 ml) and tert-butylhydroperoxide (173 ml) were simultaneously added to a solution of 4-pyridinecarbonitrile (30 g), acetaldehyde (97.6 ml) and sulfuric acid (15.4 ml) in water (90 ml) at 0° C. with stirring. After stirring at the same temperature for one hour, the resulting precipitate was collected by filtration and washed with water to give 2-acetyl-4-pyridinecarbonitrile (22.5 g).

reactant | 4-pyridinecarbonitrile | 30 g | N1=CC=C(C=C1)C#N | C6H4N2
reactant | acetaldehyde | 97.6 ml | C(C)=O | C2H4O
reactant | sulfuric acid | 15.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1080 ml | O | H2O
solvent | tert-butylhydroperoxide | 173 ml | C(C)(C)(C)OO | C4H10O2
solvent | water | 90 ml | O | H2O
product | 2-acetyl-4-pyridinecarbonitrile | 22.5 g | C(C)(=O)C1=NC=CC(=C1)C#N | C8H6N2O
